Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Weakness, dysphagia, weight loss
 
Major Surgical or Invasive Procedure:
Electromyography (EMG) ___

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with history of fatigue,
weakness, and hypophonia since ___ diagnosed with
"myasthenia-like syndrome" with multipe negative myasthenia
antibody profiles, POTS, gastroparesis, SIBO who presented to 
the
ED with reports of progress weakness, dyphagia, and weight loss.

Her symptoms initially began in ___ with weakness, 
and
hypophonia with periods where she is unable to speak at all, as
well as dysphagia with resultant weight loss. She has been
evaluated by neurology here and throughout ___ without a
neurologic etiology identified. She currently follows with Dr.
___ in ___ where she is treated for a "myasthenia-like
syndrome" most recently on monthly IVIG. She has also been
evaluated by several naturopathic doctors with various courses 
of
antibiotics for chronic lyme disease, vitamins, and probiotics.
She reports that eventually the antibiotics seemed to be
worsening her symptoms and she has been off of them for a while.
She was also treated with courses of antibiotics for Bartonella. 

She was evaluated by infectious disease in the Partner's system
who noted no concern for Lyme, Bartonella, anaplasma, Chagas,
HIV, or any infectious etiology of her symptoms. She also
underwent swallowing evaluation with a barium swallow in 
___ with mild esophageal dysmotility but no strictures or
obstruction noted.

When she first saw Dr. ___ tried antibiotics, but all her
symptoms got worse with antibiotics. She then tried
pyridostigmine which she did not tolerate due to palpitations.
Decision was made to empirically trial IVIG which she had for 8
months but stopped 3 weeks prior to presentation due to her
progressive symptoms.  She notes 4 months after starting IVIG 
her
voice improved.  She subsequently went to ___ ___ - 
___ where she reports her symptoms have been the best 
controlled
and she was about 40-50% of her previous baseline. Shortly
afterwards she noticed her symptoms began to recur with 
worsening
fatigue, weakness, hypophonia, dysphagia, stiffness in her arms
and legs with minimal exertion.  6 weeks ago she reports she
could only lay in bed all day and was only able to communicate
with texting.  10 days ago she went to ___ stem cell
treatment ___ in ___ where she had a stem cell
injection. She was seen by her PCP ___ who recommended the
following laboratory workup which has not been completed:
  
  -DHEA, estradiol, estrone, ferritin, FSH, hemoglobin A1c,
high-sensitivity CRP, LH, progesterone, prolactin, total
testosterone, TSH, free T3, free T4, vitamin B12, folic acid,
total vitamin D, a.m. cortisol, RBC zinc, methylmalonic acid,
SHBG, renin, and high GBM antibodies, CMV IgG and IgM, ___
a and B, ___ antibodies, EBV panel, echo virus antibodies,
enterococcus, hepatitis B surface antigen, herpes 1 IgG, herpes 
2
IgG, HHV-6, mycoplasma culture

She states due to the dysphagia over the past week she has been
unable to eat for a few days and feels she is losing weight.  
She
reports her most recent weight to be approximately ___ pounds. 

While she was getting IVIG over the winter she states she was up
to 105 pounds.  She also reports her hair is falling out in
clumps.  Her skin is dry, and her arms and hands get cold with
exertion, and she has cold hands and cold feet. She has
occasional abdominal pains, several bowel movements daily, no
nausea, no vomiting, and no dysuria. He has been taking B
vitamins intermittently, magnesium, and a few days of mother
wart, ___, and licorice supplements to try to help her
symptoms

ED Course notable for: 
-Afebrile, vital signs including orthostatics within normal
limits. -CBC, chemistry panel, LFTS, TSH, and UA all within
normal limits with a spec gr 1.007 on UA. Serum and urine tox
negative. 
-ECG and CXR unremarkable. 
-NIF -60 and VC 3.55, both normal. 
-Neurology consulted and felt her picture was not consistent 
with
CNS or neuromuscular junction pathology. Recommended no urgent
neuroimaging or testing other than EMG either inpatient or
outpatient.
-Received 2L IVF
-She reported inability to eat other than small amounts and
feeling unsafe at home and was admitted for further workup

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
-Gastroparesis (reportedly diagnosed on gastric emptying study 
___
years ago at ___)
-POTS (reportedly diagnosed via tilt-table testing)
-SIBO
-Ovarian cysts
-Anxiety
-H. pylori infection
-Lyme infection
 
Social History:
___
Family History:
Depression and anxiety in multiple paternal family members
___ on mother's side
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VS: ___ 2349 Temp: 98.7 PO BP: 89/60 HR: 80 O2 sat: 97% 
Weight 99.1 lbs. (stable from ___ year prior), last recorded 
weight
___ in Partners records
GENERAL: Very pleasant, thin woman resting comforting in bed.
Speaks softly but able to be understood without difficulty.
Reported throat tightness several seconds into interview but
continued to talk without issue for 15 more minutes
HEENT: Anicteric sclera, MMM
NECK: supple
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial, DP pulses bilaterally
NEURO: CN II-XII intact. Alert, moving all 4 extremities with
purpose, face symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
___ ___ Temp: 98.9 PO BP: 100/68 HR: 102 RR: 18 O2 sat: 
99%
O2 delivery: Ra 
GENERAL: Thin woman, no acute distress
HEENT: NC/AT, MMM, anicteric sclera, EOMI
NECK: supple
CV: regular rate and rhythm, no murmurs appreciated
PULM: clear to auscultation bilaterally, no wheezes or crackles,
non-labored breathing
GI: abdomen soft, nondistended, nontender, bowel sounds normal
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses
NEURO: CN II-XII intact, no focal deficits
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:

___ 01:18AM BLOOD WBC-7.2 RBC-4.49 Hgb-11.2 Hct-35.5 
MCV-79* MCH-24.9* MCHC-31.5* RDW-15.2 RDWSD-43.5 Plt ___
___ 01:18AM BLOOD Neuts-49.6 ___ Monos-13.4* 
Eos-2.2 Baso-0.3 NRBC-0.3* Im ___ AbsNeut-3.59 AbsLymp-2.47 
AbsMono-0.97* AbsEos-0.16 AbsBaso-0.02
___ 01:18AM BLOOD Glucose-108* UreaN-10 Creat-0.6 Na-140 
K-3.7 Cl-103 HCO3-25 AnGap-12
___ 01:18AM BLOOD ALT-8 AST-15 AlkPhos-44
___ 01:18AM BLOOD Albumin-4.1 Calcium-9.5 Phos-3.9 Mg-2.1 
Iron-53
___ 01:18AM BLOOD calTIBC-324 VitB12-1304* Ferritn-30 
TRF-249
___ 01:18AM BLOOD TSH-4.1
___ 01:18AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:15AM URINE Color-Straw Appear-Clear Sp ___
___ 01:15AM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:15AM URINE RBC-1 WBC-<1 Bacteri-FEW* Yeast-NONE 
Epi-2
___ 01:15AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:

___ 06:15AM BLOOD WBC-6.3 RBC-4.16 Hgb-10.5* Hct-33.2* 
MCV-80* MCH-25.2* MCHC-31.6* RDW-15.3 RDWSD-44.1 Plt ___
___ 06:15AM BLOOD ___ PTT-26.1 ___
___ 06:15AM BLOOD Glucose-92 UreaN-15 Creat-0.6 Na-139 
K-4.0 Cl-100 HCO3-25 AnGap-14
___ 06:15AM BLOOD Calcium-9.5 Phos-4.4 Mg-2.1
___ 08:29AM BLOOD Albumin-4.5 Calcium-9.8 Phos-3.5 Mg-2.0
___ 04:45PM BLOOD Cortsol-26.7*
___ 03:55PM BLOOD Cortsol-12.0

MICRO:

___ 1:15 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

IMAGING REPORTS:

___ EMG
IMPRESSION:
Normal study. There is no electrophysiologic evidence for a 
polyneuropathy
involving large diameter sensory or motor fibers (including 
AIDP). Based on
single fiber EMG and repetitive nerve stimulation studies, there 
is no
electrophysiologic evidence for a disorder of neuromuscular 
transmission.
 
Brief Hospital Course:
BRIEF SUMMARY:
___ year-old woman with history of fatigue, weakness, and
hypophonia since ___ diagnosed with "myasthenia-like
syndrome" with negative myasthenia antibody profile, POTS,
gastroparesis, SIBO who presented to the ED with reports of
progress weakness, dyphagia, and weight loss.

ACTIVE ISSUES:
# Malaise NOS
Patient presented reporting that she was unable to eat for a few 
days prior to arrival, endorsed 10 lb weight loss over 1 month, 
paralysis of muscles of mastication when attempting to chew. She 
was extensively worked up in the past without a clear cause of 
dysphagia. Bedside swallow evaluation showed a safe 
oropharyngeal swallow with no clinical signs/symptoms of 
aspiration or penetration. Labs showed normal electrolytes, 
vitamins and minerals, thyroid function, and adrenal function. 
Neurology was consulted and EMG was normal, recommended 
outpatient tilt-table testing. Psychiatry recommended a focus on 
nutrition and ___ with outpatient follow-up. Patient was unable 
to tolerate barium swallow. Dobhoff tube was offered but the 
patient was unable to tolerate. Patient was advised to increase 
her PO intake with supplemental drinks and to advance to solids 
as tolerated.

# Generalized Weakness
Patient presented endorsing generalized weakness and stiffness, 
hair loss and dry skin, cold extremities with exertion, 
occasional abdominal pains, and several bowel movements daily. 
Medical workup did not show a clear medical cause including 
electrolyte, neuromuscular, endocrine, or intoxicant causes. 
Patient reported exhaustion from minimal activity. Neurology was 
consulted and recommended tilt-table testing after normal EMG. 
Psychiatry recommended a focus on nutrition and ___ pending a 
complete medical workup.

TRANSITIONAL ISSUES:
[ ] Needs to follow-up with Neurology for tilt-table testing.
[ ] Needs to follow-up with Rheumatology for autoimmune workup.
[ ] Needs to follow-up with Psychiatry. Our Psych department 
will not book apt for pts unless they have a BI pcp. If they do, 
pts must call the department themselves to do an intake over the 
phone before any apt is booked. If they ___, we refer them 
back to their PCP’s for help.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. B Complex 1 (vitamin B complex)    oral ASDIR 
2. Fludrocortisone Acetate 0.1 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Fludrocortisone Acetate 0.1 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Generalized weakness NOS
Malaise NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- You were admitted for dysphagia and weakness.

WHAT HAPPENED IN THE HOSPITAL?
- You underwent electromyography (EMG) which was normal, meaning 
that your muscles are nerves are working normally.
- Your labs including electrolyte, thyroid, adrenal, vitamins 
and minerals were normal.
- Speech and swallow evaluation showed that your swallow 
function appears safe and functional.

WHAT SHOULD YOU DO AT HOME?
- Advance your diet as tolerated.
- Increase your activity with physical therapy and exercise.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___